Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old male presenting to the ED after a 15 
foot fall from ladder while trying to fix his gutters. He did 
not have a headstrike or LOC; he does complain of back pain 
since the fall and neck pain starting now. He denies
weakness or changes in sensation. No saddle anesthesia or 
incontinence. 

 
Past Medical History:
hypertension, hypothyroidism, GERD, cervical spinal fusion ___
at ___ (Dr. ___, L5-S1 fusion with
intermittent radicular sx 
 
Social History:
___
Family History:
Non-Contributory
 
Physical Exam:
VS:  T 98.1   BP 122/72   HR 86   RR 16   O2Sat 94% RA  
General: Appears comfortable, NAD
HEENT: Normocephalic, atraumatic
Chest: No respiratory distress; TLSO brace in place
Cardiovascular: RRR, S1 S2, +2 pulses
ABD/Back: TLSO brace in place
Skin: No rash, Warm and dry
Neuro: Speech fluent; strength/sensation grossly intact
Psych: Normal mood, Normal mentation
 
Pertinent Results:
___ 09:00AM BLOOD Hct-43.0
___ 06:10AM BLOOD WBC-9.1 RBC-4.57* Hgb-14.9 Hct-40.9 
MCV-90 MCH-32.6* MCHC-36.4 RDW-13.1 RDWSD-42.9 Plt ___
___ 06:40PM BLOOD Hct-45.1
___ 02:05PM BLOOD WBC-10.8* RBC-5.52 Hgb-17.0 Hct-48.8 
MCV-88 MCH-30.8 MCHC-34.8 RDW-12.6 RDWSD-41.1 Plt ___
___ 06:10AM BLOOD Plt ___
___ 06:10AM BLOOD ___ PTT-30.8 ___
___ 02:05PM BLOOD ___ PTT-28.1 ___
___ 02:05PM BLOOD Plt ___
___ 02:05PM BLOOD ___ 06:10AM BLOOD Glucose-98 UreaN-11 Creat-0.8 Na-138 
K-3.3 Cl-97 HCO3-28 AnGap-16
___ 02:05PM BLOOD UreaN-10 Creat-1.0
___ 06:10AM BLOOD estGFR-Using this
___ 02:05PM BLOOD estGFR-Using this
___ 02:05PM BLOOD Lipase-35
___ 06:10AM BLOOD Calcium-8.5 Phos-2.9 Mg-2.0
___ 06:10AM BLOOD
___ 02:05PM BLOOD
___ 02:12PM BLOOD ___ pO2-51* pCO2-49* pH-7.40 
calTCO2-31* Base XS-3 Comment-GREEN TOP
___ 02:12PM BLOOD Glucose-106* Lactate-2.7* Na-139 K-3.4 
Cl-96 calHCO3-29
___ 02:12PM BLOOD freeCa-1.04*

CT TORSO: 
1.  Burst fracture of the L1 vertebral body without retropulsion 
into the 
spinal canal.  Findings associated with nondisplaced left 
transverse process fracture at this level.  No large 
prevertebral hematoma. 
2.  Small subcapsular splenic hematoma. 
3.  Hepatic steatosis. 
4.  Nonspecific prominent retroperitoneal nodes do not meet 
strict size 
criteria, may be reactive. 

CT ___:
Diffuse high density within the subdural space within the spinal 
canal 
extending from the C2 through C4 levels, may be artifactual 
although given 
trauma history, MRI is advised for further evaluation.  No 
obvious fracture or cervical malalignment. 

CT HEAD:
There is no evidence of acute intracranial process or 
hemorrhage.

CT ___:
There is moderate compression fracture of L1 vertebral body.  No 
radiographic evidence of significant retropulsion of fracture 
fragments within spinal canal.  No radiographic evidence of 
involvement of posterior elements.  There are no other 
fractures.  Degenerative changes lumbar ___, most prominent at 
L5-S1 level.  Arterial calcifications. 

 
Brief Hospital Course:
Mr. ___ was admitted to the hospital following a 15 foot fall 
from a ladder. He suffered several non-operative injuries 
including a Sub-Capsular Splenic Hematoma and an L1 Burst and 
Transverse Process Fracture. Both of these issues did not 
require any surgical intervention while in the hospital. The 
splenic injury was monitored by drawing serial blood levels, 
which were normal. The ___ team was consulted for the 
Vertebral injury and they recommended wearing a TLSO brace for 
stability and comfort while ambulatory. 

A high density region in subdural space along ___ was also 
noticed on initial imaging. This was discussed with the ___ 
team who recommended clearance of the C-Collar and no further 
imaging in the presence of a negative clinical exam. 

Over the duration of his brief hospital stay, Mr. ___ was 
tolerating a regular diet, independently ambulatory with his 
TLSO brace, voiding and passing flatus without any issues. He 
was instructed about the proper use of the TLSO and given the 
appropriate follow up appointments with the ACS team and the 
Neurosurgery team. ___ evaluated the patient and cleared him to 
return home from the hospital. 
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID:PRN Constipation 
Hold if experiencing loose stools 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
4.  Atenolol 25 mg PO DAILY  
5.  Hydrochlorothiazide 25 mg PO DAILY  
6.  Levothyroxine Sodium 50 mcg IV DAILY  
7.  Omeprazole 20 mg PO DAILY  

1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID:PRN Constipation 
Hold if experiencing loose stools 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth once a 
day Disp #*30 Packet Refills:*0 
5.  Atenolol 25 mg PO DAILY  
6.  Hydrochlorothiazide 25 mg PO DAILY  
7.  Levothyroxine Sodium 50 mcg IV DAILY  
8.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L1 burst fracture, L1 TP Fracture
Spleen hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ after 
suffering a fall from a ladder. You sustained a lumbar ___ 
fracture and were evaluated by neurosurgery. It was determined 
that you did not require surgical intervention during this 
admission. You also sustained a spleen hematoma for which no 
surgical intervention was needed. Please read the following 
information and instructions:

Activity
- Please wear your brace at all times except when in bed
- We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
- You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
- No driving while taking any narcotic or sedating medication. 
- No contact sports until cleared by your neurosurgeon. 

 
Followup Instructions:
___